US07501438B2
To a solution of methyl 4-morpholinepropionate (5.0 g, 28.9 mmol) in MeOH (25 mL) was added 2N NaOH (17.3 mL, 34.6 mmol). The mixture was stirred for 1 h then concentrated in vacuo. The residue was suspended in dichloromethane (125 mL) and DMF (30 μL) was added followed by oxalylchloride (10 mL, 115.6 mmol). The mixture was allowed to stir for 2 h. then concentrated in vacuo. The resulting solid was added portion-wise to a solution of 2-(aminomethyl)pyridine (2.88 mL, 28.2 mmol) and triethylamine (9.0 mL, 64.86 mmol) in dichloromethane (200 mL). The mixture was stirred at ambient temperature for 1 h. then washed with water (300 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated to yield 3-morpholin-4-yl-N-pyridin-2-ylmethyl-propionamide (5.56 g, 77%).

reactant | methyl 4-morpholinepropionate | 28.9 mmol, 5.0 g | N1(CCOCC1)CCC(=O)OC | C8H15NO3
reactant | NaOH | 34.6 mmol, 2N, 17.3 mL | [OH-].[Na+]
reactant | oxalylchloride | 115.6 mmol, 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(aminomethyl)pyridine | 28.2 mmol, 2.88 mL | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 64.86 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 25 mL | CO | CH4O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-morpholin-4-yl-N-pyridin-2-ylmethyl-propionamide | 5.56 g, 77% | N1(CCOCC1)CCC(=O)NCC1=NC=CC=C1 | C13H19N3O2
